US04221737
1-Nitro-2-(2-propynylamino)-2-{2-[(4-bromo-1H-imidazol-5-yl)methylthio]ethylamino}ethylene
When 2-[(4-bromo-1H-imidazol-5-yl)methylthio]ethylamine (prepared according to the procedure described in Belgian Patent 779,775) is reacted with 1,1-bis(methylthio)-2-nitroethylene according to the procedure of Example 6, Step A, and the resultant 1-nitro-2-methylthio-2-{2-[(4-bromo-1H-imidazol-5-yl)methylthio]ethylamino}ethylene is treated with propargylamine by the procedure of Example 6, Step B, the title compound is produced.

reactant | 2-[(4-bromo-1H-imidazol-5-yl)methylthio]ethylamine | BrC=1N=CNC1CSCCN | C6H10BrN3S
reactant | 1,1-bis(methylthio)-2-nitroethylene | CSC(=C[N+](=O)[O-])SC | C4H7NO2S2
reactant | 1-nitro-2-methylthio-2-{2-[(4-bromo-1H-imidazol-5-yl)methylthio]ethylamino}ethylene | [N+](=O)([O-])C=C(NCCSCC1=C(N=CN1)Br)SC | C9H13BrN4O2S2
reactant | propargylamine | C(C#C)N | C3H5N
product | 1-Nitro-2-(2-propynylamino)-2-{2-[(4-bromo-1H-imidazol-5-yl)methylthio]ethylamino}ethylene | [N+](=O)([O-])C=C(NCCSCC1=C(N=CN1)Br)NCC#C | C11H14BrN5O2S
